US03962236
N,N-dicyclohexylcarbodiimide (9.0 g) is added to a cooled, stirred solution of 3-methylindole-1-ethanol (3.0 g) in 30 ml of dimethyl sulfoxidebenzene (2:1) containing trifluoroacetic acid (0.6 ml) and pyridine (1.12 ml). The reaction is stirred at room temperature under nitrogen for 5 hours. The reaction mixture is now diluted with 300 ml of ether, followed by the dropwise addition of a solution of oxalic acid (3.78 g) in 11 ml of methanol. After 30 minutes, water (300 ml) is added and the insoluble material is collected. The organic phase is washed with water (2X), 5% aqueous sodium bicarbonate (2X) and water (2X). After drying (MgSO4) the organic phase is evaporated to yield 3-methylindole-1-acetaldehyde. The latter compound is then converted to its corresponding gem-dithiol with hydrogen sulfide and reduced with lithium aluminium hydride according to the method of T.L. Cairns et al., J. Amer. Chem. Soc., 74, 3982 (1952), to yield the title compound, γ maxCHCl3 2570 cm-1.

reactant | 3-methylindole-1-ethanol | 3.0 g | CC1=CN(C2=CC=CC=C12)CCO | C11H13NO
reactant | trifluoroacetic acid | 0.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | pyridine | 1.12 ml | N1=CC=CC=C1 | C5H5N
reactant | oxalic acid | 3.78 g | C(C(=O)O)(=O)O | C2H2O4
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | methanol | 11 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 3-methylindole-1-acetaldehyde | CC1=CN(C2=CC=CC=C12)CC=O | C11H11NO
